US04446318
Mixed were 1.36 g of 7-ACA, 0.36 g of water and 1.32 g of 2-dimethylaminocarbonylmethyl-5-mercapto-1,3,4-thiadiazole, and 6.5 ml of acetonitrile was added. 5.04 g of diphosphoryl tetrachloride was added through a dropping funnel to the mixture at -20° to -30° C., followed by rinsing the funnel with 1.5 ml of acetonitrile. The reaction mixture was warmed at 10° C. over a period of 5 minutes with stirring, placed in a warm water bath of 40° C. and stirred at the same temperature for 20 minutes. The reaction solution was cooled with ice and adjusted to pH 4.1 with aqueous concentrated ammonia after the addition of 10 ml of cold water. The precipitate was recovered by filtration, washed with water and dried, thereby affording 1.82 g (87.6%) of 7-amino-3-(2-dimethylaminocarbonylmethyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid.

reactant | 7-ACA | 1.36 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | water | 0.36 g | O | H2O
reactant | 2-dimethylaminocarbonylmethyl-5-mercapto-1,3,4-thiadiazole | 1.32 g | CN(C(=O)CC=1SC(=NN1)S)C | C6H9N3OS2
reactant | diphosphoryl tetrachloride | 5.04 g | P(=O)(OP(=O)(Cl)Cl)(Cl)Cl | Cl4O3P2
solvent | acetonitrile | 6.5 ml | C(C)#N | C2H3N
product | 7-amino-3-(2-dimethylaminocarbonylmethyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.82 g, 87.6% | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)CC(=O)N(C)C)C(=O)O)C1=O | C14H17N5O4S3
